US09107916B2
A. ethyl 3-oxo-4-phenylpentanoate
To a solution of 2-phenylpropanoic acid (5.0 g, 33.3 mmol) in DCM (50 mL) was added (COCl)2 (8.5 g, 66.7 mmol) and 2 drops of DMF in ice-bath. The reaction mixture was stirred at r.t. for 2 h. After the reaction was completed, the reaction mixture was concentrated under reduced pressure. To a solution of pyridine (6 mL) in DCM (50 mL) was added 2,2-dimethyl-1,3-dioxane-4,6-dione (5.8 g, 40.0 mmol) and the above residue in ice-bath. The reaction mixture was stirred at r.t. for 2 h. Diluted with 1N HCl (50 mL), extracted with DCM (50 mL×3), washed with brine (50 mL), dried over Na2SO4, filtered, concentrated to give a residue. The residue was dissolved in EtOH (50 mL) and then stirred at reflux for 3 h. Removed solvent, purified by flash column chromatography to give the title compound (3.6 g, 49%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 1.22 (3H, t, J=7.2 Hz), 1.41 (3H, d, J=7.2 Hz), 3.28 (1H, d, J=15.6 Hz), 3.40 (1H, d, J=15.6 Hz), 3.89-3.91 (1H, m), 4.11-4.14 (2H, m), 7.20-7.22 (2H, m), 7.27-7.36 (3H, m).

reactant | 2-phenylpropanoic acid | 33.3 mmol, 5.0 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | (COCl)2 | 66.7 mmol, 8.5 g | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 40.0 mmol, 5.8 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N, 50 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | ethyl 3-oxo-4-phenylpentanoate | 3.6 g, 49% | O=C(CC(=O)OCC)C(C)C1=CC=CC=C1 | C13H16O3
